US07138425B2
a) 2-(3-Nitro-4-methoxyphenyl)-5-(3-methoxyphenyl)benzoxazole
Prepared by the method of Example 15d), from 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole (200 mg, 0.57 mmol) and 3-methoxyphenylboronic acid (131 mg, 0.86 mmol) the subtitle compound was obtained, (98 mg, 45%). 1H NMR (DMSO) δ 8.71(d, 1H), 8.52(dd, 1H), 8.35(t, 1H), 8.17(d, 1H), 7.93(d, 1H), 7.82(dd, 1H), 7.69(d, 1H), 7.48(t, 1H), 7.36(m, 2H), 7.03(dd, 1H), 4.12(s, 3H), 3.90(s, 3H).

reactant | 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole | 0.57 mmol, 200 mg | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H9BrN2O4
reactant | 3-methoxyphenylboronic acid | 0.86 mmol, 131 mg | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | 2-(3-Nitro-4-methoxyphenyl)-5-(3-methoxyphenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=CC(=CC=C2)OC | C21H16N2O5
